US05364943
Under a nitrogen atmosphere, in a round-bottom flask were placed 500 mg (2.9 mmol) of 2-phenyl-3-aminopyridine, 10 mL of methanol and 1 g of 3A molecular sieves. The pH of the system was adjusted to ca. 4.5, using methanol saturated with HCl , and 190 mg (2.9 mmol) of sodium cyanoborohydride was added to the system. The pH of the system was adjusted to 4.5, 474 mg (3.5 mmol) of 2-methoxybenzaldehyde was added and the mixture was stirred at room temperature overnight. The mixture was filtered through (Celite®) and the filtrate was concentrated. The residue was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate, the layers were separated and the aqueous phase was extracted with three portions of CH2Cl2. The combined organic fractions were dried (Na2SO4) and concentrated with a rotary evaporator. The crude material was purified by flash column chromatography to obtain 475 mg of 3-(2-methoxybenzylamino)-2-phenylpyridine. Mp. 128°-129° C.

reactant | 2-phenyl-3-aminopyridine | 2.9 mmol, 500 mg | C1(=CC=CC=C1)C1=NC=CC=C1N | C11H10N2
reactant | HCl | Cl | ClH
reactant | sodium cyanoborohydride | 2.9 mmol, 190 mg | C(#N)[BH3-].[Na+]
reactant | 2-methoxybenzaldehyde | 3.5 mmol, 474 mg | COC1=C(C=O)C=CC=C1 | C8H8O2
solvent | methanol | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 3-(2-methoxybenzylamino)-2-phenylpyridine | 475 mg | COC1=C(CNC=2C(=NC=CC2)C2=CC=CC=C2)C=CC=C1 | C19H18N2O
